US07763608B2
To a solution of 4-(azidomethyl)-1-(4-iodophenyl)-2-(methylthio)-1H-imidazole (0.26 g, 0.70 mmol) in EtOAc (10 mL), Tin(II) chloride dihydrate (0.63 g, 2.8 mmol) was added. The mixture was heated at reflux for 10 min. After being cooled down, 1N NaOH (10 mL) was added. The white precipitate was filtered off through celite. The EtOAc phase was separated, dried over Na2SO4, concentrated in vacuo to give (1-(4-iodophenyl)-2-(methylthio)-1H-imidazol-4-yl)methanamine (127 mg).

reactant | 4-(azidomethyl)-1-(4-iodophenyl)-2-(methylthio)-1H-imidazole | 0.70 mmol, 0.26 g | N(=[N+]=[N-])CC=1N=C(N(C1)C1=CC=C(C=C1)I)SC | C11H10IN5S
reactant | Tin(II) chloride dihydrate | 2.8 mmol, 0.63 g | O.O.[Sn](Cl)Cl
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (1-(4-iodophenyl)-2-(methylthio)-1H-imidazol-4-yl)methanamine | 127 mg | IC1=CC=C(C=C1)N1C(=NC(=C1)CN)SC | C11H12IN3S
